US08071592B2
1-(2-{4-[(2,3-Dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]-1-piperidinyl}ethyl)-7-(methyloxy)-2(1H)-quinolinone Hydrochloride
To a solution of 1,1-dimethylethyl (2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)(1-{2-[7-(methyloxy)-2-oxo-1(2H)-quinolinyl]ethyl}-4-piperidinyl)carbamate (92 mg) in chloroform (1.5 ml) was added 4N HCl in 1,4-dioxane (1.5 ml) and the reaction stirred at rt for 1 h. More 4N HCl in 1,4-dioxane (0.5 ml) was added and the reaction stirred at rt for 0.5 h then the solvents removed. The residue was dissolved in MeOH (25 ml) and treated with Amberlyst A21 basic resin until the pH was 6. The residue was filtered off and the solvent removed; the residue was subjected to column chromatography on silica gel eluting with 0-20% methanol-DCM to afford the free base of the title compound (67 mg, 89%).

reactant | 1,1-dimethylethyl (2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)(1-{2-[7-(methyloxy)-2-oxo-1(2H)-quinolinyl]ethyl}-4-piperidinyl)carbamate | 92 mg | O1CCOC=2C=NC(=CC21)CN(C(OC(C)(C)C)=O)C2CCN(CC2)CCN2C(C=CC1=CC=C(C=C21)OC)=O | C30H38N4O6
reactant | HCl | 4N | Cl | ClH
reactant | HCl | 4N | Cl | ClH
solvent | chloroform | 1.5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | 1,4-dioxane | 1.5 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 0.5 ml | O1CCOCC1 | C4H8O2
product | 1-(2-{4-[(2,3-Dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]-1-piperidinyl}ethyl)-7-(methyloxy)-2(1H)-quinolinone Hydrochloride | 67 mg, 89% | Cl.O1CCOC=2C=NC(=CC21)CNC2CCN(CC2)CCN2C(C=CC1=CC=C(C=C21)OC)=O | InChI=1S/C25H30N4O4.ClH/c1-31-21-4-2-18-3-5-25(30)29(22(18)15-21)11-10-28-8-6-19(7-9-28)26-16-20-14-23-24(17-27-20)33-13-12-32-23;/h2-5,14-15,17,19,26H,6-13,16H2,1H3;1H
